US08669266B2
(ii) 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester
To a solution of 3.00 g 4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester in 50 ml ethanol were added under argon 0.3 g Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 16 h. The suspension was filtered over a plug of Celite® and washed with ethanol. The crude product was obtained after evaporation of the solvent. Yield: 1.90 g.

reactant | 4-Benzyloxycarbonylmethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester | 3.00 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)C | C21H19NO5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C | C14H13NO5
